US06924278B2
A solution of 2-amino-5-bromopyridine (5.0 g) and di-tert-butyl dicarbonate (6.39 g) in tert-butanol (100 ml) was stirred at room temperature for 15 hours. The resulting suspension was concentrated under reduced pressure and the residue was chromatographed on a silica gel using dichloromethane eluent. The fractions containing the objective compound were collected and concentrated under reduced pressure to give 2-(tert-butoxycarbonylamino)-5-bromopyridine (3.25 g)

reactant | 2-amino-5-bromopyridine | 5.0 g | NC1=NC=C(C=C1)Br | C5H5BrN2
reactant | di-tert-butyl dicarbonate | 6.39 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | 2-(tert-butoxycarbonylamino)-5-bromopyridine | 3.25 g | C(C)(C)(C)OC(=O)NC1=NC=C(C=C1)Br | C10H13BrN2O2
